### PR TITLE
Multilinear folding completeness

### PR DESCRIPTION
**Pull request by ElijahVlasov**
This PR introduces iterated folding operation as defined in the WHIR paper, proves it completeness, and its multilinear counterpart.

### CODE REVIEW

File: ArkLib/Data/CodingTheory/ProximityGap/Folding/Multilinear.lean [hunk 1]
```diff
@@ -0,0 +1,182 @@
...
+open MvPolynomial LinearMvExtension
+
+variable {F : Type} [Field F] [DecidableEq F]
+variable {n : ℕ}
+variable {domain : SmoothCosetFftDomain n F} {f : Word F (Fin (2 ^ n))}
+variable {k : ℕ} {x : F}
+
+/-- One step of lemma 4.15 from [ACFY24]. -/
+lemma foldWord_eq_evalOnPoints_powAlgHom [NeZero n] {α : F}
+  {g : F⦃≤ 1⦄[X (Fin n)]}
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/ProximityGap/Folding/Multilinear.lean:45]: **AI-generated inline feedback — paper fidelity (blocking).** Here `g` has variables `Fin n`, where the same `n` fixes the domain cardinality `2^n`. I validated this against [WHIR Claim 4.15, pp. 26–27](https://eprint.iacr.org/2024/1586): the paper starts from `RS[F,L,m]` with independent `k ≤ m ≤ n` and returns an `(m-k)`-variate MLE. Thus the present theorem covers only `m = n`. Please quantify `m` independently and add a paper-shaped wrapper starting from `f ∈ ReedSolomon.smoothCode domain m`; ArkLib's `mem_rs_code_iff_exists_mle` already exposes a `Fin m` witness. Add at least one test/example with `m < n` to prevent this conflation from returning.

File: ArkLib/Data/Domain/CosetFftDomain/Subdomain.lean [hunk 2]
```diff
@@ -18,6 +18,7 @@ import Mathlib.Tactic.Field
 
 import ArkLib.Data.Domain.CosetFftDomain.Ops
 import ArkLib.Data.Domain.FftDomain.Ops
+import ArkLib.Data.CodingTheory.ReedSolomon
```
Comment (alexanderlhicks) [inline ArkLib/Data/Domain/CosetFftDomain/Subdomain.lean:22]: **AI-generated inline feedback — layering (blocking for integration).** I validated the import graph against current ArkLib: coding theory imports domain infrastructure, while this new import makes `CosetFftDomain/Subdomain` depend on `ReedSolomon`. Please retain only generic subdomain/power lemmas here and move `ReedSolomon.evalOnPoints` corollaries to `Data/CodingTheory/ProximityGap/Folding/Multilinear.lean` (or another coding-theory module). This also avoids the content conflict observed when stacking this PR after #603.

File: ArkLib/Data/CodingTheory/ProximityGap/Folding.lean [hunk 3]
```diff
@@ -262,6 +262,34 @@ theorem foldWord_k_1 [NeZero n] {i : Fin (2 ^ (n - 1))} {α : F} :
...
+    let x : domain := CosetFftDomain.twoNthRoot (i := 1)
+        ⟨domain.subdomain 1 i, by simp⟩
+    let i := domain.log x
+    let i' := domain.log ⟨-x.1, by obtain ⟨x, hx⟩ := x; simpa using hx⟩
+    ((f i + f i') / 2) + α * ((f i - f i') / (2 * x)) := by aesop (add simp [foldWord_k_1])
+
+/-- The version of a folding where
+  k steps are achieved via iterated application
+  of k=1 folding. -/
+noncomputable def iteratedFoldWord (domain : SmoothCosetFftDomain n F)
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/ProximityGap/Folding.lean:292]: **AI-generated inline feedback — canonical fold API.** I checked current ArkLib and the related heads: main already has `ProximityGap.foldWord`, the proof-system development has `Fold.fold_k`, and #657 adds an axiom-clean explicit-root binary theorem. Please prove the exact equivalence/migration lemma for `iteratedFoldWord` and make downstream Claims 4.20–4.23 use one canonical surface. WHIR Definition 4.14 defines the `k`-fold recursively, so two unbridged recurrences are not enough to establish faithful reuse.

File: ArkLib/Data/Domain/CosetFftDomain/Subdomain.lean [hunk 4]
```diff
@@ -450,6 +451,234 @@ lemma square_roots_explicit [DecidableEq F] {i : ℕ} (hi : i < n) {y : F}
...
+          (2 ^ i * j.val % 2 ^ n)
+          (Nat.mod_lt _ (Nat.two_pow_pos _))) ≠
+            ω (Fin.mk
+                (2 ^ i * j'.val % 2 ^ n)
+                (Nat.mod_lt _ (Nat.two_pow_pos _))) := by
+      intro h_eq
+      have := (‹CosetFftDomainClass D (Fin (2 ^ n)) F›.injective ω) h_eq
+      simp_all only [ne_eq, Fin.ext_iff]
+      -- Since $2^i * j \equiv 2^i * j' \pmod{2^n}$,
+      -- we can divide both sides by $2^i$ (which is valid since $2^i$ is coprime to $2^n$).
```
Comment (alexanderlhicks) [inline ArkLib/Data/Domain/CosetFftDomain/Subdomain.lean]: **AI-generated inline feedback — proof documentation.** The powers of two here are not coprime. I checked the proof immediately below: it cancels a common power-of-two factor using the divisibility relation. Please rewrite the comment to describe that cancellation; the present explanation states a false number-theoretic fact.

**Review by alexanderlhicks — COMMENTED** [review]
> **AI-generated review.** This review was produced by Codex and has not been written by a human reviewer. Every finding below was checked against exact head `2fa10aaa3e100bbbc24af3f6bd76d7efdc82b2eb`, the referenced paper, and the current ArkLib interfaces.

**Conclusion: changes are needed before this should land.** The recurrence, univariate degree-bound theorem, and even/odd algebra are meaningful, axiom-clean progress, but the advertised multilinear result is only the full-rate `m = n` specialization of [WHIR Claim 4.15, pp. 26–27](https://eprint.iacr.org/2024/1586). It does not yet formalize the paper's independent code parameter `m ≤ n`.

**Validation performed**

- Ran `./scripts/validate.sh` at this exact SHA: all 4,050 Lean jobs and repository gates passed. I also refreshed GitHub checks on 2026-07-19; all reported checks pass.
- Ran `#print axioms` on the principal new fold/MLE declarations: only standard Lean/Mathlib axioms were reported, with no `sorryAx`.
- Compared the public statements to WHIR Definition 4.14 and Claim 4.15 and to ArkLib's existing `ReedSolomon.smoothCode`, `mem_rs_code_iff_exists_mle`, `ProximityGap.foldWord`, and proof-system `Fold.fold_k` surfaces.
- Tested integration against current main and the related PRs: this work overlaps #657's binary-fold insertion and places Reed–Solomon corollaries in a domain module, so semantic integration is required rather than a mechanical merge.

**Required outcome**

1. Generalize the MLE statement to independent `m` and `n`, with a paper-shaped `smoothCode` wrapper.
2. Preserve ArkLib's dependency direction by moving coding-theory corollaries out of `CosetFftDomain/Subdomain`.
3. Prove/document equivalence with the existing STIR/WHIR fold APIs and #657's explicit-root theorem.

Series-wide context: of the seven WHIR items directly targeted by PRs #534/#603/#616/#657 (Definition 4.14, Claim 4.15, Definitions 4.16–4.18, Claim 4.19, Claim 4.22), only Claim 4.19 is currently both paper-faithful and axiom-clean end-to-end. This PR advances Claim 4.15, but does not yet close it, and it does not close a numbered STIR result.

File: ArkLib/Data/MvPolynomial/EvenAndOdd.lean [hunk 5]
```diff
@@ -0,0 +1,377 @@
...
+    rw [←two_smul R, smul_mul_assoc, ←MvPolynomial.C_mul']
+    ring_nf
+    rw [mul_right_comm, ←MvPolynomial.C_mul, mul_inv_cancel₀ h2ne0, MvPolynomial.C_1, one_mul]
+  · have h_monomial : monomial m c = C c * X 0 * ∏ i ∈ m.support \ {0}, X i ^ (m i) := by
+      rw [MvPolynomial.monomial_eq]
+      simp only [Finsupp.prod, prod_X_pow_eq_monomial, mul_assoc, mul_eq_mul_left_iff, map_eq_zero]
+      have hsup : 0 ∈ m.support := by simp [h0]
+      have : (X 0 : R[X (Fin n)]) = X 0 ^ (m 0) := by simp [show m 0 = 1 by grind]
+      rw [this,
+          ←Finset.prod_eq_mul_prod_diff_singleton (s := m.support) 0
```
Comment (alexanderlhicks) [inline ArkLib/Data/MvPolynomial/EvenAndOdd.lean:151]: > `Finset.prod_eq_mul_prod_diff_singleton` has been deprecated: Use `Finset.prod_eq_mul_prod_sdiff_singleton` instead`

**Comment by alexanderlhicks** [comment]
going to merge and these warnings can be fixed as part of a broader lint pass

**Review by alexanderlhicks — APPROVED** [review]
